US09340547B2
b) (2S,4R)-4-(Benzyloxy)-1-(tert-butoxycarbonyl)pyrrolidine-2-carboxylic acid
(2S,4R)-1-tert-Butyl 2-methyl 4-(benzyloxy)pyrrolidine-1,2-dicarboxylate (2.78 g, 8.29 mmol) was dissolved in a 1:1 mixture of MeOH and THF (30 ml) and 2N NaOH (12.5 ml, 26 mmol) was added. After stirring at room temperature for 2 h, the organic solvents were evaporated under reduced pressure and the aqueous phase was extracted twice with dichloromethane. The aqueous phase was then cooled at 0° C. and then acidified with concentrated chlorhydric acid. This phase was extracted twice with dichloromethane. The organic phase was dried over magnesium sulphate, filtered and the solvent evaporated under reduced pressure. 2.01 g (76% yield) of the final compound were obtained, pure enough to perform the next synthetic step.

reactant | (2S,4R)-1-tert-Butyl 2-methyl 4-(benzyloxy)pyrrolidine-1,2-dicarboxylate | 8.29 mmol, 2.78 g | C(C1=CC=CC=C1)O[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)OC | C18H25NO5
reactant | NaOH | 26 mmol, 2N, 12.5 ml | [OH-].[Na+]
solvent | MeOH | CO | CH4O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | (2S,4R)-4-(Benzyloxy)-1-(tert-butoxycarbonyl)pyrrolidine-2-carboxylic acid | 2.01 g, 76% yield | C(C1=CC=CC=C1)O[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)O | C17H23NO5
